US08492111B2
To a solution of 157 mg of (R)-3-[(R)-1-(naphthalen-1-yl)ethylamino]pyrrolidine dihydrochloride and 120 mg of methyl 6-chloro-4-(trifluoromethyl)-nicotinate in 5 ml of dioxane was added 346 mg of potassium carbonate, and the reaction solution was stirred at 100° C. for 1 day. Further, to the reaction mixture was irradiated at 140° C. for 1 hour by using a Microwave reaction system, and then, the reaction mixture was cooled to room temperature. To the mixture were added water and ethyl acetate, and the mixture was stirred and the liquids were separated. The organic layer was dried and concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=80:20→50:50), and then, purified by NH thin layer silica gel column chromatography (hexane:ethyl acetate=67:33) to obtain methyl 6-[(R)-3-[(R)-1-(naphthalen-1-yl)ethylamino]pyrrolidin-1-yl]-4-trifluoromethylnicotinate (the following Table, Example, 12.001).

reactant | (R)-3-[(R)-1-(naphthalen-1-yl)ethylamino]pyrrolidine dihydrochloride | 157 mg | Cl.Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)N[C@H]1CNCC1
reactant | methyl 6-chloro-4-(trifluoromethyl)-nicotinate | 120 mg | ClC1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C8H5ClF3NO2
reactant | potassium carbonate | 346 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 6-[(R)-3-[(R)-1-(naphthalen-1-yl)ethylamino]pyrrolidin-1-yl]-4-trifluoromethylnicotinate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N[C@H]1CN(CC1)C1=NC=C(C(=O)OC)C(=C1)C(F)(F)F | C24H24F3N3O2
